US08623902B2
At a temperature of 0° C., a solution of 2-chloro-nicotinoyl chloride (0.313 g; 1.78 mmol) in dichloromethane (5 ml) was added dropwise to a stirred solution of (S)-2-(2,4,6-trichloro-phenoxymethyl)-pyrrolidine (0.30 g; 1.78 mmol), which was prepared as described in example P13, and triethylamine (0.50 ml; 3.56 mmol) in dichloromethane (10 ml). The ice bath was removed and reaction mixture was allowed stirring for 16 hours at ambient temperature. Dichloromethane (40 ml) was added to the mixture. The reaction mixture was washed with 2M HCl (40 ml), 1M NaOH (50 ml) and saturated NaCl (50 ml) and then dried over Na2SO4. After removal of the solvent, the residue (0.21 g in the form of an oil) was purified by flash chromatography over silica gel (eluent:cyclohexane/ethyl acetate 1:1). 0.134 g (17.9% of theory) of (2-chloro-pyridin-3-yl)-[(S)-2-(2,4,6-trichloro-phenoxymethyl)-pyrrolidin-1-yl]-methanone was obtained in form of an oil. 1H NMR (400 MHz, CDCl3): δ 1.88-1.97 (m, 1H), 2.10-2.28 (m, 2H), 2.47-2.54 (m, 1H), 3.30-3.41 (m, 2H), 4.21-4.24 (m, 1H), 4.44 (m, 1H), 4.60-4.65 (m, 1H), 7.26 (s, 2H, Ar—H), 7.30-7.34 (m, 1H, Py-H), 7.68-7.72 (m, 1H, Py-H), 8.42-8.44 (m, 1H, Py-H). MS [M+H]+ 419/421/423/425.

reactant | 2-chloro-nicotinoyl chloride | 1.78 mmol, 0.313 g | ClC1=C(C(=O)Cl)C=CC=N1 | C6H3Cl2NO
reactant | (S)-2-(2,4,6-trichloro-phenoxymethyl)-pyrrolidine | 1.78 mmol, 0.30 g | ClC1=C(OC[C@H]2NCCC2)C(=CC(=C1)Cl)Cl | C11H12Cl3NO
reactant | triethylamine | 3.56 mmol, 0.50 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | Dichloromethane | 40 ml | ClCCl | CH2Cl2
product | (2-chloro-pyridin-3-yl)-[(S)-2-(2,4,6-trichloro-phenoxymethyl)-pyrrolidin-1-yl]-methanone | 0.134 g, 17.9% | ClC1=NC=CC=C1C(=O)N1[C@@H](CCC1)COC1=C(C=C(C=C1Cl)Cl)Cl | C17H14Cl4N2O2
